US06552036B2
N,N-Diethyl-4-[(8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide Hydrochloride [1:1]
A 100 mL benzene suspension of 3.1 g (5.6 mmol) N,N-diethyl-4-[(8-methyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide, 3.45 g (25 mmol) K2CO3, and 1.5 mL (10 mmol) 2,2,2-trichloroethyl chloroformate was allowed to reflux for 2 h. The reaction was cooled, filtered, and the solvent evaporated. The residual oil was dissolved in MeOH then stirred at reflux with 2.6 g (40 mmol) zinc powder for 1 h. After cooling, the reaction was filtered through celite and partitioned between 3N NaOH and CH2Cl2. The organic layer was washed with brine, dried over K2CO3, filtered, and concentrated (2.1 g, 5.6 mmol). The resulting clear oil was dissolved in Et2O, filtered, and the product precipitated after the addition of ethereal HCl; mp 128-132° C. MS m/z (MH+) 375. 1H NMR 300 MHz (DMSO-d6) δ 7.15-7.4 (m, 9H), 3.9-4.0 (m, 2H), 3.15-3.3 (m, 2H), 2.55-2.65 (m, 2H), 2.25-2.35 (m, 4H), 1.9-2.0 (m, 2H), 1.75-1.85 (m, 2H), 1.0-1.2 (m, 6H). Anal calc C25H30N2O.HCl (3% H2O): C, 70.89; H, 7.71; N, 6.61. Found: C, 70.52; H, 7.41; N, 6.24.

reactant | N,N-diethyl-4-[(8-methyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide | 5.6 mmol, 3.1 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1CC2CCC(C1)N2C)=O)CC | C26H32N2O
reactant | K2CO3 | 25 mmol, 3.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trichloroethyl chloroformate | 10 mmol, 1.5 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
catalyst | zinc | 40 mmol, 2.6 g | [Zn] | Zn
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | N,N-Diethyl-4-[(8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide Hydrochloride | Cl.C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1CC2CCC(C1)N2)=O)CC | InChI=1S/C25H30N2O.ClH/c1-3-27(4-2)25(28)20-12-10-19(11-13-20)24(18-8-6-5-7-9-18)21-16-22-14-15-23(17-21)26-22;/h5-13,22-23,26H,3-4,14-17H2,1-2H3;1H
